US07700641B2
Synthesis of 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione
Following the procedure as described in EXAMPLE 21, and making non-critical variations using 3-[3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]propanoic acid to replace [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid, the title compound was obtained (32%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.57 (s, 1H), 7.37-7.28 (m, 1H), 7.08-7.03 (m, 2H), 6.95 (d, 1H), 6.02 (s, 1H), 5.95-5.91 (m, 2H), 3.73 (t, 2H), 3.37-3.24 (m, 1H), 2.79-2.67(m, 1H), 2.41-2.32 (m, 2H), 1.76-1.64 (m, 2H), 1.38-1.28 (m, 4H), 0.87 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 195.4, 177.4, 152.3, 148.0, 142.7, 138.9, 133.6, 128.8, 128.4, 124.1, 122.9, 108.9, 106.9, 106.6, 101.9, 51.7, 40.2, 33.1, 32.8, 29.0, 27.1, 22.3, 14.0; MS (ES+) m/z 400.1 (M+23), 378.1 (M+1).

reactant | 3-[3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]propanoic acid | O1COC2=C1C=CC(=C2)C2(C(N(C1=CC=CC=C21)CCCCC)=O)CCC(=O)O | C23H25NO5
reactant | [3-(1,3-benzodioxol-5-yl)-2-oxo-1-pentyl-2,3-dihydro-1H-indol-3-yl]acetic acid | O1COC2=C1C=CC(=C2)C2(C(N(C1=CC=CC=C21)CCCCC)=O)CC(=O)O | C22H23NO5
product | 1-pentyl-6′H-spiro[indole-3,5′-naphtho[2,3-d][1,3]dioxole]-2,8′(1H,7′H)-dione | C(CCCC)N1C(C2(C3=CC4=C(OCO4)C=C3C(CC2)=O)C2=CC=CC=C12)=O | C23H23NO4
